US04166860
1.80 g. (0.0101 mole) N-cyano-N'-[(5-methyl-4-imidazolyl) methyl] guanidine is taken up in 100 ml. isopropanol. 2.5 ml. conc. HCl is added. The reaction mixture is then heated for 20 minutes to reflux and refluxed for 65 minutes to obtain complete hydrolysis. The mixture is then cooled and filtered. The material is then recrystallized from MeOH/CH3CN to obtain 1-[(5-methyl-4-imidazolyl)methylamidino]urea dihydrochloride with a m.p. of 214°-214.5° C.

reactant | N-cyano-N'-[(5-methyl-4-imidazolyl) methyl] guanidine | 0.0101 mole | C(#N)NC(=N)NCC=1N=CNC1C | C7H10N6
reactant | HCl | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-[(5-methyl-4-imidazolyl)methylamidino]urea dihydrochloride | Cl.Cl.CC1=C(N=CN1)CNC(=N)NC(=O)N | InChI=1S/C7H12N6O.2ClH/c1-4-5(12-3-11-4)2-10-6(8)13-7(9)14;;/h3H,2H2,1H3,(H,11,12)(H5,8,9,10,13,14);2*1H
